US08334236B2
(2) Production of ethyl 2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
6.57 g (32 mmol) of 3-formyl-2-(pivaloylamino)pyridine was dissolved in ethanol (50 mL), and 10.2 g (64 mmol) of diethyl malonate and 1.6 mL (16 mmol) of pyrrolidine were added to the above solution. The resulting mixture was stirred overnight at 100° C. The reaction mixture was cooled to room temperature, and a solid precipitated therefrom was washed with ethanol. Thus, 2.2 g (yield: 32%) of the title compound was obtained as a yellow solid.

reactant | 3-formyl-2-(pivaloylamino)pyridine | 32 mmol, 6.57 g | C(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C11H14N2O2
reactant | diethyl malonate | 64 mmol, 10.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | pyrrolidine | 16 mmol, 1.6 mL | N1CCCC1 | C4H9N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 2.2 g, yield: 32% | O=C1NC2=NC=CC=C2C=C1C(=O)OCC | C11H10N2O3
